US07230020B2
Synthesis of N-(2-methyl-quinoxalin-6-yl)-4-propyl-benzenesulfonamide, STX 956 (KRB01080)
To a solution of 4n-propylbenzenesulphonyl chloride (115 mg, 0.528 mmol) in dichloromethane (3 mL) was added pyridine (100 μL, 1.26 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-amino-2-methylquinoxaline (80 mg, 0.50 mmol) was added. The resulting mixture was stirred for 2 h at room temperature, then saturated NaHCO3 solution (8 mL) was added and the mixture was extracted into ethyl acetate (15 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a white solid (168 mg, 95%), single spot at Rf 0.72 (ethyl acetate). mp 135.6-136.2° C., HPLC purity 99+% (tR 2.23 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 8.66 (1H, s), 7.89 (1H, di-J=9.2 Hz), 7.77 (2H, d, J=8.4 Hz), 7.67 (1H, d, J=2.5 Hz), 7.54 (1H, dd, J=8.9, 2.5 Hz), 7.22 (2H, d, J=8.4 Hz), 2.71 (3H, s), 2.56 (2H, t, J=7.7 Hz), 1.58 (2H, sextet, J=7.7 Hz), 0.87 (3H, t, J=7.4 Hz). LCMS: 340.25 (M−). FAB-MS (MH+, C18H19N3O2S): calcd 342.1276, found 342.1290.

reactant | 4n-propylbenzenesulphonyl chloride | 0.528 mmol, 115 mg | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | pyridine | 1.26 mmol, 100 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-amino-2-methylquinoxaline | 0.50 mmol, 80 mg | NC=1C=C2N=CC(=NC2=CC1)C | C9H9N3
reactant | NaHCO3 | 8 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(2-methyl-quinoxalin-6-yl)-4-propyl-benzenesulfonamide | 168 mg, 95% | CC1=NC2=CC=C(C=C2N=C1)NS(=O)(=O)C1=CC=C(C=C1)CCC | C18H19N3O2S
